US07049313B2
10,11-Dihydro-dibenzo[b,f]thiepin-4-ol
4-Methoxy-10,11-dihydro-dibenzo[b,f]thiepine (2.42 g, 10 mmol) and pyridine hydrochloride (15 g) were heated with stirring at 180° C. for one hour. Water (100 ml) was added to the reaction mixture and the organics were extracted with ethyl acetate (3×100 ml). The organics were combined and washed with 2N HCl (50 ml), brine (50 ml), and dried over magnesium sulphate. The solvent were removed in vacuo and the residue was purified by column chromatography (1:9; dichloromethane:hexane) to give the desired compound as a white solid (1.55 g, 68%). 1HNMR (300 MHz, DMSO-d6): δH=3.13–3.23 (4H, m), 6.70 (2H, t), 6.97–7.15 (4H, m), 7.38 (1H,s) 9.78 (1H, s); m/z (LC-MS, ESP), RT=4.59 min, (M++1)=229.

reactant | 4-Methoxy-10,11-dihydro-dibenzo[b,f]thiepine | 10 mmol, 2.42 g | COC1=CC=CC2=C1SC1=C(CC2)C=CC=C1 | C15H14OS
reactant | pyridine hydrochloride | 15 g | Cl.N1=CC=CC=C1
solvent | Water | 100 ml | O | H2O
product | 10,11-Dihydro-dibenzo[b,f]thiepin-4-ol | 1.55 g, 68% | C1=CC=C(C=2SC3=C(CCC21)C=CC=C3)O | C14H12OS
